US07700633B2
To a suspension of 6-amino-7-benzyloxy-3-methoxychromen-2-one (0.880 g, 2.96 mmol) and K2CO3 (0.820 g, 5.92 mmol) in DMF (50 mL) is added methyl bromoacetate (0.36 mL, 3.85 mmol). The mixture is stirred at 60° C. for 3 h. Additional methyl bromoacetate (0.14 mL) is added, and after 3 h, the mixture is allowed to cool to ambient temperature and poured into water and extracted with EtOAc. The organic layer is washed with water (3×), sat. NaCl, and dried over sodium sulfate. The solvent is removed under reduced pressure and the residue purified by flash chromatography using hexanes/EtOAc (7:1) to afford (7-benzyloxy-3-methoxy-2-oxo-2H-chromen-6-ylamino)-acetic acid methyl ester as a yellow solid: 1H NMR (CDCl3) δ 7.44-7.33 (m, 5H), 6.79 (s, 1H), 6.75 (s, 1H), 6.36 (s, 1H), 5.13 (s, 2H), 3.95 (s, 2H), 3.85 (s, 3H), 3.77 (s, 3H); (M+H)+=370.

reactant | 6-amino-7-benzyloxy-3-methoxychromen-2-one | 2.96 mmol, 0.880 g | NC=1C=C2C=C(C(OC2=CC1OCC1=CC=CC=C1)=O)OC | C17H15NO4
reactant | K2CO3 | 5.92 mmol, 0.820 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl bromoacetate | 3.85 mmol, 0.36 mL | BrCC(=O)OC | C3H5BrO2
reactant | methyl bromoacetate | 0.14 mL | BrCC(=O)OC | C3H5BrO2
reactant | water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (7-benzyloxy-3-methoxy-2-oxo-2H-chromen-6-ylamino)-acetic acid methyl ester | COC(CNC=1C=C2C=C(C(OC2=CC1OCC1=CC=CC=C1)=O)OC)=O | C20H19NO6
